US08703758B2
H) N-[(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide
To tert-butyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate (438 mg) was added 4M hydrogen chloride/ethyl acetate (5 mL), and the mixture was stirred at room temperature for 30 min and concentrated. Pyridine (2.5 mL) and acetic anhydride (0.186 mL) were added to the residue, and the mixture was stirred at room temperature for 2 hr. After concentration, the residue was dissolved in ethyl acetate, and the solution was washed successively with 10% aqueous potassium carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The extract was applied to silica gel chromatography (NH, ethyl acetate) and concentrated under reduced pressure, and the obtained solid was washed with diisopropyl ether to give the title compound (295 mg).

reactant | tert-butyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 438 mg | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H35N3O5
reactant | hydrogen chloride ethyl acetate | 4M, 5 mL | Cl.C(C)(=O)OCC
product | N-[(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide | 295 mg | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(C)=O)C=C1 | C21H29N3O4
